Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Angina
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x3; left internal 
mammary artery graft to left anterior descending, reverse 
saphenous vein to posterior descending artery and the marginal 
branch.

 
History of Present Illness:
Mr. ___ is a nice ___ year old man with a history of coronary 
artery disease status post PCIs, hyperlipidemia, hypertension, 
and prior myocardial infarction. He presented to ___ 
___ on ___ with chest pain and shortness of breath with 
activity and at rest. He underwent cardiac catheterization which 
revealed severe three vessel disease and preserved left 
ventricular systolic function. He was transferred to ___ for 
surgical evaluation. Of note, his wife of ___ years passed away 
in ___ of this year. Since then he has had ongoing stomach 
upset, sleeps on the loveseat in his home, and eats 
infrequently. He admits to drinking 3 alcoholic drinks daily, 
and has been falling more frequently over the past month. He 
also stopped taking his medications. He was taking Abilify for 
depression, however
stopped. He stated that his cardiologist thought the medication 
was contributing to his tremors. He did not follow-up with a 
metal health provider or PCP.       
 
Past Medical History:
Anxiety
Coronary Artery Disease s/p stents
Depression
Hyperlipidemia
Hypertension
Lung Nodule
Myocardial Infraction

Surgical History:
C6, C7 fused
Lumbar fusion ___
Lobectomy, left mass removal. Benign. (___)

 
Social History:
___
Family History:
Father ___ in his ___. 

 
Physical Exam:
HR: 60 SR.  BP: 130/60.  RR: 18.  O2 sat: 98% RA.
Height: 63"    Weight: 154 lbs

General:
Skin: Dry [X] intact [X]
HEENT: PERRLA [X] EOMI [X]
Neck:  Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR [X]  Irregular []  Murmur []  
Abdomen: Soft [X] non-distended [X] non-tender []  bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X]  Edema []
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
___           Right: 2+   Left: 2+
Radial       Right: 2+   Left: 2+

Carotid Bruit:   Right:    Left: present

Discharge Exam:
VS: T. 98.4  HR 90's SR  BP: 117-121/70's  RR: 18  Sats:94% RA
Wt: 76.7 Kg 
General: awake, alert oriented
HEENT: normocephalic, 
Card: RRR normal S1,S2
Resp: clear breath sounds throughout
GI: benign
Extr: warm trace edema
Wound: Sternal & left lower leg clean dry intact.  No erythema.  
Sternum stable
Neuro: awake, alert oriented
 
Pertinent Results:
Transthoracic Echocardiogram ___
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
basal to mid inferior wall. The remaining segments contract 
normally (LVEF = 55-60 %). Doppler parameters are most 
consistent with normal left ventricular diastolic function. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction 
c/w CAD (RCA territory) with overall preserved global systolic 
function. No pathologic valvular flow.  

Carotid Ultrasound ___
No hemodynamically significant stenosis or atherosclerotic 
disease of 
bilateral carotid arteries. 

Transesophageal Echocardiogram ___
Pre-Bypass
rhythm: sinus
infusions: none
1. The left atrium is normal in size. No spontaneous echo 
contrast is seen in the body of the left atrium or left atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. 
2. Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). Doppler parameters are 
most consistent with normal left ventricular diastolic function. 

3. Right ventricular chamber size and free wall motion are 
normal. 
4. The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. 
5. The mitral valve appears structurally normal with trivial 
mitral regurgitation. There is no mitral valve prolapse. 

Post Bypass
rhythm: atrial pacing
infusions: none
1. Left Ventricular function is intact from pre-bypass
2. Right Ventricular function is intact from pre-bypass
3. Valvular function is intact from pre-bypass, no evidence of 
new dysfunction
4. Aorta is intact, no evidence of new dissection  

PA & Lat ___
Comparison to ___.  Stable correct alignment of the 
sternal 
wires.  Stable position of the right internal jugular vein 
catheter.  Stable postoperative opacities at the left lung 
bases.  No new parenchymal changes.  No pneumothorax.  No larger 
pleural effusions.  No pulmonary edema. 

Discharge Labs:
___ WBC-10.9* RBC-3.08* Hgb-7.7* Hct-25.0* MCV-81* 
MCH-25.0* MCHC-30.8* RDW-16.8* RDWSD-49.6* Plt ___
___ Hct-22.8*
___ Hct-23.7*
___ Glucose-103* UreaN-23* Creat-1.2 Na-145 K-4.6 Cl-104 
HCO3-26 
___ Mg-2.6

Admission Labs:
___ WBC-8.4 RBC-4.43* Hgb-10.2* Hct-34.6* MCV-78*# 
MCH-23.0*# MCHC-29.5* RDW-16.2* RDWSD-45.1 Plt ___
___ Glucose-105* UreaN-19 Creat-1.1 Na-142 K-4.9 Cl-106 
HCO3-24 
___ %HbA1c-5.5 eAG-111
___ 05:55AM BLOOD Triglyc-79 HDL-43 CHOL/HD-3.0 LDLcalc-69

___ 5:30 pm Staph aureus Screen Source: nares, breast, 
axilla. 

                            **FINAL REPORT ___

   Staph aureus Screen (Final ___: 
      STAPH AUREUS COAG 
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
He was admitted to ___ on ___ and underwent routine 
preoperative testing and evaluation. He was evaluated by 
psychiatry in preparation for surgery and his medications were 
adjusted. He remained hemodynamically stable and was taken to 
the operating room on ___. He underwent coronary artery 
bypass grafting x 3. Please see operative note for full details. 
He tolerated the procedure well and was transferred to the CVICU 
in stable condition for recovery and invasive monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated later that evening. He was weaned from inotropic and 
vasopressor support. Beta blocker was initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery.  He was transfuse 1 unit PRBC for 
HCT 23 to HCT 25. Iron supplement was started.   His home 
medications were restarted. He was evaluated by the physical 
therapy service for assistance with strength and mobility. He 
continued to make steady progress and was discharged to ___ 
___ ___ on POD 4. Expected length of 
stay less than 30 days.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. ALPRAZolam 1 mg PO BID 
3. Mirtazapine 15 mg PO QHS 
4. Pantoprazole 40 mg PO Q24H 
5. Propranolol LA 120 mg PO DAILY 
6. Simvastatin 80 mg PO QPM 
7. TraMADol 50 mg PO BID 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Atorvastatin 20 mg PO QPM  
3.  Bisacodyl ___AILY:PRN constipation  
4.  Docusate Sodium 100 mg PO BID  
5.  Ferrous Sulfate 325 mg PO DAILY Duration: 30 Days  
6.  Furosemide 20 mg PO DAILY 
stop when weights reaches 156 pounds  
7.  GuaiFENesin ER 1200 mg PO Q12H  
8.  Metoprolol Tartrate 25 mg PO TID  
9.  Potassium Chloride 10 mEq PO DAILY 
take with lasix  
10.  ALPRAZolam 1 mg PO TID:PRN anxiety 
RX *alprazolam 1 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
11.  Aspirin EC 81 mg PO DAILY  
12.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
13.  Pantoprazole 40 mg PO Q12H  
14.  Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
15.  TraMADol 50 mg PO BID 
RX *tramadol 50 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease s/p CABG x4 (LIMA-LAD, SVG-PDA, SVG-OM)

Anxiety
Depression
Hyperlipidemia
Hypertension
Lung Nodule
Myocardial Infraction

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

 
Discharge Instructions:
1. Shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
2. NO lotions, cream, powder, or ointments to incisions
3. Daily weights.  Keep a log.  Call with ___ pound weight grain 
over 5 days. 
4. No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
5. No lifting more than 10 pounds for 10 weeks

 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___